US09238640B2
A mixture of 5,7-difluoro-2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-3H-quinazolin-4-one (1.54 g, 4.44 mmol), PPh3 (1.52 g, 5.78 mmol), and CBr4 (1.92 g, 5.78 mmol) in anhydrous DMF (30 mL) was stirred at room temperature for 36 hours. DMF was evaporated under vacuum, water (100 mL) was added, and stirred for 30 minutes. The solid separated was filtered, washed with water, then ether, and dried under vacuum to give 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-difluoro-3H-quinazolin-4-one as pale yellow solid. Yield: 1.38 g (crude). This product was used in the next step without further purification.

reactant | 5,7-difluoro-2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-3H-quinazolin-4-one | 4.44 mmol, 1.54 g | FC1=C2C(NC(=NC2=CC(=C1)F)C1=CC(=C(C(=C1)C)OCCO)C)=O | C18H16F2N2O3
reactant | PPh3 | 5.78 mmol, 1.52 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 5.78 mmol, 1.92 g | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-difluoro-3H-quinazolin-4-one | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)F)F)C | C18H15BrF2N2O2
